US05002942
2-Amino-6-phenoxybenzothiazole
20.5 g of ammonium thiocyanate were added to a solution of 25 g of 4-phenoxyaniline in 250 ml of acetic acid, and the mixture was stirred, whilst cooling. While the internal temperature was maintained at 12 to 18° C., 6.95 ml of bromine was added dropwise to the mixture. After completion of the dropwise addition, the mixture was stirred for 2 hours, after which the solvent was removed by evaporation under reduced pressure. 300ml of ethyl acetate and 200 ml of water were added to the residue, and the resulting mixture was neutralized with sodium bicarbonate. The ethyl acetate layer was separated, washed with an aqueous solution of sodium chloride, and then dehydrated over anhydrous magnesium sulfate after which it was concentrated by evaporation under reduced pressure. The solid obtained was triturated in diisopropyl ether, and filtered to give 21.34 g of the title compound, melting at 171-172° C.

reactant | ammonium thiocyanate | 20.5 g | [S-]C#N.[NH4+]
reactant | 4-phenoxyaniline | 25 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | bromine | 6.95 ml | BrBr | Br2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-6-phenoxybenzothiazole | 21.34 g | NC=1SC2=C(N1)C=CC(=C2)OC2=CC=CC=C2 | C13H10N2OS
